US05102667
Sodium carbonate (10.3 g) is added, with stirring, to a suspension of (S)-3-amino-2-phenylpropionic acid (8 g) in a mixture of water (55 cc) and dioxane (100 cc) and a solution of di-tert-butyl dicarbonate (12.6 g) in dioxane (16 cc) is then poured in. The reaction mixture is stirred for 20 hours at ambient temperature and filtered and the filtrate is concentrated to dryness under reduced pressure (2.7 kPa). The residue is taken up in distilled water (100 cc) and ethyl acetate (100 cc); the mixture is cooled to +5° C. and then acidified to pH=1 by addition of 4N hydrochloric acid (35 cc). The organic phase is washed with distilled water (3×100 cc), dried over magnesium sulphate and then concentrated to dryness under reduced pressure (2.7 kPa). (S)-3-tert-butoxycarbonylamino-2-phenylpropionic acid (11.3 g) melting at 138° C. is obtained; [α]D20 =+94° (c=0.25, methanol).

reactant | Sodium carbonate | 10.3 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | (S)-3-amino-2-phenylpropionic acid | 8 g | NC[C@@H](C(=O)O)C1=CC=CC=C1 | C9H11NO2
reactant | di-tert-butyl dicarbonate | 12.6 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | 55 cc | O | H2O
solvent | dioxane | 100 cc | O1CCOCC1 | C4H8O2
solvent | dioxane | 16 cc | O1CCOCC1 | C4H8O2
product | (S)-3-tert-butoxycarbonylamino-2-phenylpropionic acid | 11.3 g | C(C)(C)(C)OC(=O)NC[C@@H](C(=O)O)C1=CC=CC=C1 | C14H19NO4
